Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
fall 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ Critical AKA ___ ___  is a ___ male who
presents to ___ on ___ with a severe TBI. 

___ on Pradaxa for A fib who was transferred from ___ after fall
down 5 stairs onto concrete while intoxicated. Per EMS report,
the patient was at a bar where he consumed 10+ beers.  On
returning home, he had a witnessed fall down 5 stairs, striking
his head on concrete.  He was immediately unresponsive.  On EMS
arrival, GCS was 3.  He was transferred to OSH where he was
intubated; rocuronium was given at approximately 8pm. Pradaxa 
was
reversed with 5g of Praxbind.  NCHCT showed small L convexity 
SDH
and diffuse traumatic SAH with no significant mass effect and
minimum MLS.  He was transferred to ___ via Medflight ground. 
En route, he was sedated with Propofol, fentanyl and midazolam.
He was hypertensive on transfer to 200's systolic; this improved
with uptitration of sedation. He received 300cc of hypertonic
saline as well. 
 
Past Medical History:
A fib on Pradaxa
HTN
HLD
MI ___ with LAD occlusion and Multi-Link Vision bare metal 
stent
Cardiac arrest ___
bulbar polio in ___ -iron lung for about six weeks   
skin basal cell carcinomas
Daily ETOH 

PSHx:  
Surgical History  (Last Verified - None on file):
Cardiac stent as above, otherwise unknown     
 
Social History:
___
Family History:
mother who developed atrial fibrillation at an advanced age and 
lived to be close to ___. 
His father had a stroke in his ___ and died from a heart attack 
at ___.

 
Physical Exam:
On admission:
GCS at the scene: 3
GCS upon Neurosurgery Evaluation: 3t  Time of evaluation: ___

Airway: [x]Intubated   [ ]Not intubated

Eye Opening: 
 [x]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [ ]4 Opens eyes spontaneously

Verbal:
 [x]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [x]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [ ]6 Obeys commands

Exam:

Gen: Elderly male lying on stretcher intubated with large right
occipital hematoma, right eye ecchymosis/edema. 

Neuro: Intubated, sedation held. No eye opening. No corneals.
Left pupil 2mm NR, Right pupil 1mm NR. No cough, no gag. No
motor.

On discharge:
Expired
 
Pertinent Results:
Please see OMR for pertinent lab and imaging results.
 
Brief Hospital Course:
EU Critical ___ was transferred to ___ ED 
from ___ with severe TBI, ___, tSAH s/p 
fall while intoxicated. He arrived intubated with GCS 3T.

#Severe TBI with cerebral compression
On arrival to the ED the patients exam remained very poor. A 
repeat head CT showed progression of the SDH and tSAH. The 
patient was re-examined after the head CT and his L pupil was 
blown. He was given mannitol and Keppra. A conversation was
held with the family regarding his poor prognosis while in the 
ED. He was admitted to the ICU and comfort measures were 
recommended. Chaplaincy was consulted per the family request. 
After arrival to the ___, family made decision to extubate.  
The patient was terminally extubated and asystole was noted at 
02:12 on ___. 

 
Medications on Admission:
Pradaxa
Otherwise unknown
 
Discharge Medications:
None
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Traumatic Subdural hematoma with brain compression
Traumatic subarachnoid hemorrhage with brain compression
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___